US04904690
2,2-Dimethylpropyl [2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl)acetate
[2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid (2.84 g) was dissolved in dimethylformamide (30 ml) and carbodiimidazole (1.78 g) was added to the solution. After stirring at room temperature for 2 hours, 2,2-dimethyl-propanol (0.88 g) was added. After stirring at 60° C. for 4 hours, water was added and the mixture was extracted with ethyl acetate. The extracted layer was washed with water, dried and concentrated. The residue was purified by silica gel column chromatography to obtain the title compound (0.82 g), yield 23%, m.p. 138°-139° C. (recrystallized from hexane-ethyl acetate).

reactant | [2-(1-Cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl]acetic acid | 2.84 g | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)O | C17H16O4
reactant | carbodiimidazole | 1.78 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2,2-dimethyl-propanol | 0.88 g | CC(CO)(C)C | C5H12O
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2,2-Dimethylpropyl [2-(1-cyclohexenyl)-4-oxo-4H-[1]-benzopyran-8-yl)acetate | yield 23% | C1(=CCCCC1)C=1OC2=C(C(C1)=O)C=CC=C2CC(=O)OCC(C)(C)C | C22H26O4
